US04252803
(ii) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl) ethyl]-1H-indole-5-carbonitrile
A mixture of 2-[2-(5-bromo-1H-indol-3-yl) ethyl]-1H-isoindole-1,3(2H)-dione (4.0 g), cuprous cyanide (1.1 g) and N-methyl-2-pyrrolidinone (10 ml) was heated at reflux for 1 hour. The reaction mixture was poured onto ice (30 g) and concentrated ammonia (15 ml) was added and the suspension was stirred for 0.75 hour. The solid was filtered off, washed with water and methanol and was crystallised from aqueous acetone to give the title compound (2.7 g) as a fawn solid m.p. 217°-221° C. T.L.C. Silica ether Rf 0.44.

reactant | 2-[2-(5-bromo-1H-indol-3-yl) ethyl]-1H-isoindole-1,3(2H)-dione | 4.0 g | BrC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H13BrN2O2
reactant | ammonia | 15 ml | N | H3N
reactant | N-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl) ethyl]-1H-indole-5-carbonitrile | 2.7 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)C#N | C19H13N3O2
